US08389527B2
6-chloro-N-(2-chloropyridin-4-yl)-8-(cyclopropyl(4-methoxybenzyl)amino)imidazo[1,2-b]pyridazine-3-carboxamide (9 g, 18.6 mmol) was combined with trans-1,4-diaminocyclohexane (31.9 g, 279 mmol) in N-methyl-2-pyrrolidinone (50 mL) and heated at 80° C. for 16 hours and at 120° C. for 6 hrs. The reaction was cooled to room temperature, and water (200 mL) was added, and the solid collected via Buchner filtration. The crude product was purified with silica gel chromatography using a stepwise gradient of 10% methanol/chloroform to 25% methanol/chloroform/1% triethylamine to isolated foamy solid. The solid was suspended in water (400 mL) and collected with Buchner filtration (2×50 mL water wash) and dried for 16 hrs under reduced pressure to afford 6-((trans)-4-aminocyclohexylamino)-N-(2-chloropyridin-4-yl)-8-(cyclopropyl(4-methoxybenzyl)amino)imidazo[1,2-b]pyridazine-3-carboxamide (10.2 g, 18.18 mmol, 98% yield) as a off white solid. LC/MS (Phenomenex Luna 5 micron C18 4.6×30 mm, 0 to 100 B in 2 min with 1 min hold time, Flow rate=5 mL/min, detection at 254 nm, Solvent A: 10% methanol/90% water/0.1% TFA; Solvent B: 10% water/90% methanol/0.1% TFA) Rt=1.77 minutes. [M+H]=561.16.

reactant | 6-chloro-N-(2-chloropyridin-4-yl)-8-(cyclopropyl(4-methoxybenzyl)amino)imidazo[1,2-b]pyridazine-3-carboxamide | 18.6 mmol, 9 g | ClC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=CC(=NC=C2)Cl)N(CC2=CC=C(C=C2)OC)C2CC2 | C23H20Cl2N6O2
reactant | trans-1,4-diaminocyclohexane | 279 mmol, 31.9 g | N[C@@H]1CC[C@H](CC1)N | C6H14N2
solvent | N-methyl-2-pyrrolidinone | 50 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 400 mL | O | H2O
solvent | water | 200 mL | O | H2O
product | 6-((trans)-4-aminocyclohexylamino)-N-(2-chloropyridin-4-yl)-8-(cyclopropyl(4-methoxybenzyl)amino)imidazo[1,2-b]pyridazine-3-carboxamide | 18.18 mmol, 10.2 g, 98% yield | N[C@@H]1CC[C@H](CC1)NC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=CC(=NC=C2)Cl)N(CC2=CC=C(C=C2)OC)C2CC2 | C29H33ClN8O2
